US06410581B1
6.1 g (60 mmol) of acetic anhydride are added dropwise to a solution of 10.6 g (50 mmol) of 4-hydroxy-3-propyl-biphenyl, 4.3 g (55 mmol) of pyridine and 0.1 g of 4-(N,N-dimethylamino)pyridine, and the mixture is heated at 50 to 60° C. for 2 hours. The reaction solution is left standing overnight at 20° C. and washed with water and dilute hydrochloric acid, and the organic phase is dried and concentrated. 11.4 g (yield: 89.8% of theory) of 4-acetoxy-3-propyl-biphenyl are obtained as a pale oil of log p=4.32 (pH=2.3).

reactant | acetic anhydride | 60 mmol, 6.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-hydroxy-3-propyl-biphenyl | 50 mmol, 10.6 g | OC1=C(C=C(C=C1)C1=CC=CC=C1)CCC | C15H16O
reactant | pyridine | 55 mmol, 4.3 g | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 0.1 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-acetoxy-3-propyl-biphenyl | 11.4 g, yield: 89.8% | C(C)(=O)OC1=C(C=C(C=C1)C1=CC=CC=C1)CCC | C17H18O2
